US04508906
In the same manner, ethyl 4-[4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy]-3-oxopentanoate and ethylamine are reacted together to give ethyl 4-[4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy]-3-ethylamino-2-pentenoate.

reactant | ethyl 4-[4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy]-3-oxopentanoate | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(OC(C(CC(=O)OCC)=O)C)C=C1 | C19H17ClF3NO5
reactant | ethylamine | C(C)N | C2H7N
product | ethyl 4-[4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy]-3-ethylamino-2-pentenoate | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(OC(C(=CC(=O)OCC)NCC)C)C=C1 | C21H22ClF3N2O4
